US06525060B1
A solution of sodium azide (4.70 g) in degassed water (25 ml) was added to a solution of (1R,4S)-4-hydroxy-2-cyclopenten-1-yl acetate (9.99 g) in tetrahydrofuran (60 ml) and stirred for 10 min. Tetrakis(triphenylphosphine)palladium(0) (365 mg) was added and stirred for 10 min. The aqueous layer was separated and extracted twice with ethyl acetate. The combined organic layers were dried (MgSO4), concentrated and purified on a short column (SiO2, ethyl acetate:isohexane 1:2 as eluant) to afford a yellow oil. This was dissolved in tetrahydrofuran (25 ml) and slowly added to a suspension of sodium hydride (2.94 g, 60% dispersion in oil) in tetrahydrofuran (60 ml) at −78° C. A solution of ethyl bromoacetate (8.2 ml) in tetrahydrofuran (5 ml) was added and the mixture was allowed to warm to 20° C. and stirred for 30 min. Aqueous ammonium chloride solution was added and the mixture was extracted with ether. The organic layers were dried (MgSO4), concentrated and purified (SiO2, ether:isohexane 1:5 as eluant) to afford a colourless oil. A solution of this oil and triphenylphosphine (17.89 g) in tetrahydrofuran (90 ml) was stirred for 10 min. Water (15 ml) was added and the solution was stirred for 18 hours. The solvent was removed in vacuo and the residue azeotroped with toluene then purified (SiO2, ethyl acetate then ethyl acetate-methanol-ammonia (90:9:1) as eluant) to afford a pale yellow oil (7.14 g).

reactant | sodium azide | 4.70 g | [N-]=[N+]=[N-].[Na+]
reactant | (1R,4S)-4-hydroxy-2-cyclopenten-1-yl acetate | 9.99 g | C(C)(=O)O[C@H]1C=C[C@H](C1)O | C7H10O3
reactant | sodium hydride | 2.94 g | [H-].[Na+]
reactant | ethyl bromoacetate | 8.2 ml | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | triphenylphosphine | 17.89 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 25 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 365 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 15 ml | O | H2O
product | ethyl acetate methanol ammonia | C(C)(=O)OCC.CO.N | InChI=1S/C4H8O2.CH4O.H3N/c1-3-6-4(2)5;1-2;/h3H2,1-2H3;2H,1H3;1H3
